US03931177
A mixture of finely powdered 6-(3-hydroxyphenyl)-4,5-dihydro-3(2H)-pyridazinone (21.6 g, 0.11 mole), epichlorohydrin (90 ml, 1.1 mole), and piperidine (1ml) was heated on a steam bath for 90 minutes. Evaporation of the solution under reduced pressure gave an oil which was dissolved in dichloromethane and stirred with dilute sodium hydroxide solution (60 ml). The organic phase was washed with water, dried, and evaporated under reduced pressure to a viscous oil (27 g, 96%). Purification on a silica column by elution with chloroform gave 6-[3-(2,3-epoxypropoxy)phenyl]-4,5-dihydro-3(2H)-pyridazinone (16.5g, 59%) as an oil which when treated with ether gave a white solid (13.7g, 49%, m.p. 108°-112°C). The pure epoxide, recrystallised from methanol petroleum/ether (b.p. 60°-80°C), had m.p. 110°-112°C.

reactant | 6-(3-hydroxyphenyl)-4,5-dihydro-3(2H)-pyridazinone | 0.11 mole, 21.6 g | OC=1C=C(C=CC1)C=1CCC(NN1)=O | C10H10N2O2
reactant | epichlorohydrin | 1.1 mole, 90 ml | C(Cl)C1CO1 | C3H5ClO
reactant | piperidine | 1ml | N1CCCCC1 | C5H11N
reactant | sodium hydroxide | 60 ml | [OH-].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 6-[3-(2,3-epoxypropoxy)phenyl]-4,5-dihydro-3(2H)-pyridazinone | 16.5g, 59% | O1C(COC=2C=C(C=CC2)C=2CCC(NN2)=O)C1 | C13H14N2O3
